US07332267B2
A polymerization kettle of a gas monomer reactor was charged with 287 g of distilled water, 7.73 g of a surfactant (trade name: Pionin A-43-S, manufactured by Takemoto Oil & Fat Co., Ltd., solid content: 48.5% by weight), 14.06 ml of 1 mol/L NaOH, 0.15 g of tetrasodium ethylenediaminetetraacetate, 255 g of styrene, 11.25 g of acrylic acid and 3.0 g of tert-dodecylmercaptan. The reactor was closed to stir the mixture in the container at a stirring speed of 200 rpm. The reactor was deaerated using a vacuum pump and substitution of nitrogen was repeated several times. Then, 108.75 g of 1,3-butadiene was introduced into the reactor under pressure and the inside temperature was raised to 60° C. A solution prepared by dissolving 1.875 g of ammonium persulfate in 50 ml of water was added to the mixture, which was then stirred for 5 hours as it was. The temperature of the mixture was raised to 90° C. to stir the mixture for 3 hours. After the reaction was finished, the inside temperature was dropped to ambient temperature and then the mixture was adjusted to pH 8.4 by adding 1 mol/L NaOH and NH4OH(Na+ ion: NH4+ ion=1:5.3 (molar ratio). Thereafter, the reaction mixture was subjected to filtration using a polypropylene filter having a pore diameter of 1.0 μm to remove foreign substances such as dusts and stored, and 774.7 g of SBR latex TP-1 was thus obtained.

reactant | Pionin | CCCCCCCN\1C(=CS/C1=C/C2=[N+](C(=CS2)C)CCCCCCC)C.[I-]
reactant | NaOH | 1 mol/L, 14.06 ml | [OH-].[Na+]
reactant | tetrasodium ethylenediaminetetraacetate | 0.15 g | C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+].[Na+]
reactant | styrene | 255 g | C=CC1=CC=CC=C1 | C8H8
reactant | acrylic acid | 11.25 g | C(C=C)(=O)O | C3H4O2
reactant | tert-dodecylmercaptan | 3.0 g | CC(C)C(C)(C)C(C)(C)C(C)(C)S | C12H26S
reactant | 1,3-butadiene | 108.75 g | C=CC=C | C4H6
reactant | ammonium persulfate | 1.875 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | NaOH | 1 mol/L | [OH-].[Na+]
reactant | NH4OH | [NH4+].[OH-]
solvent | water | 50 ml | O | H2O
solvent | water | 287 g | O | H2O
product | TP-1 | C/C=C/C1C[C@H]([C@H](C1)O)O | C8H14O2
